US06384065B1
In an atmosphere of nitrogen, 3.32 g of 4-(3-methylbutylidene)-1-cyclohexanone and 5.35 g of benzyl 3-aminopropionate were added to 35 ml of dioxane and stirred at ambient temperature for 30 minutes, after which 2.25 g of mercaptoacetic acid was added and the resulting mixture was stirred under reflux for 3 hours. The reaction mixture was poured into a mixture of ice water and ethyl acetate, pH was adjusted to 2.0 with 2 mol/L hydrochloric acid, and the organic layer was separated. The organic layer was washed successively with water, saturated aqueous solution of sodium hydrogen carbonate and saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Purification of the residue by column chromatography (eluent: hexane:ethyl acetate=6:1) gave 4.36 g of benzyl 3-[8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-4-yl]-propionate as a light yellow oily product.

reactant | 4-(3-methylbutylidene)-1-cyclohexanone | 3.32 g | CC(CC=C1CCC(CC1)=O)C | C11H18O
reactant | benzyl 3-aminopropionate | 5.35 g | NCCC(=O)OCC1=CC=CC=C1 | C10H13NO2
reactant | mercaptoacetic acid | 2.25 g | SCC(=O)O | C2H4O2S
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | benzyl 3-[8-(3-methylbutylidene)-3-oxo-1-thia-4-azaspiro[4.5]decan-4-yl]-propionate | 4.36 g | CC(CC=C1CCC2(N(C(CS2)=O)CCC(=O)OCC2=CC=CC=C2)CC1)C | C23H31NO3S
